US05225568
Preparation of 2-(p-Chlorophenyl)-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of α-bromo-p-chloro-β-(methylamino)cinnamonitrile, (E)- or (Z)- (5.43 g, 0.02 mol) and trifluoroacetone (3.36 g, 2.7 mL, 0.03 mol) in acetic acid is heated at 80° C. for 1-2 hours, heated at 100° C. overnight, diluted with water and extracted with ethyl acetate. The combined organic extracts are washed with water, dried over anhydrous Na2SO4 and concentrated in vacuo to obtain a gum. The gum is flash chromatographed using silica gel and a 15% ethyl acetate in heptane solution to give the title product as a yellow solid (1.7 g, mp 129°-131° C.) which is identified by 1H and 19FNMR spectral analyses.

reactant | α-bromo-p-chloro-β-(methylamino)cinnamonitrile | BrC(C#N)=C(C1=CC=C(C=C1)Cl)NC | C10H8BrClN2
reactant | trifluoroacetone | 0.03 mol, 2.7 mL, 3.36 g | FC(C(C)=O)(F)F | C3H3F3O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(p-Chlorophenyl)-1-methyl-5-(trifluoromethyl)pyrrole-3-carbonitrile | 1.7 g | ClC1=CC=C(C=C1)C=1N(C(=CC1C#N)C(F)(F)F)C | C13H8ClF3N2
